US09382271B2
Into a suitable high pressure tube reactor were placed allyl acetate and dicyclopentadiene (DCPD) at 4:1 molar ratio based on cyclopentadiene monomer, and heated in a hot oil bath maintained at 220° C., and maintained at that temperature for four hours. At the end of the reaction, the high pressure tube was removed from the bath and quenched in a wet ice bath. The tube was washed then with methanol and dichloromethane and weighed to verify that no leakage had occurred. The resultant crude monomer sample was analyzed by GC-MS, which showed about 7.5% unreacted allyl acetate, 10% exo-/endo-norbornene methanol, 82% exo-/endo-norbornene methyl acetate and 0.6% (1,2,3,4,4a,5,8,8a-octahydro-1,4:5,8-dimethanonaphthalen-2-yl)methanol. Fractional distillation of the crude mixture resulted in the isolation of norbornene methyl acetate of greater than >99.6% purity.

reactant | allyl acetate | C(C)(=O)OCC=C | C5H8O2
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
product | norbornene methyl acetate | COC(C)=O.C12C=CC(CC1)C2 | InChI=1S/C7H10.C3H6O2/c1-2-7-4-3-6(1)5-7;1-3(4)5-2/h1-2,6-7H,3-5H2;1-2H3
